US04559345
N-[4-chloro-6-(2,3-xylidino)-2-pyrimidinyl]-aminoacetic acid, ethyl ester (I, 2)
A suspensione of 100% sodium hydride (27 mg) in anhydrous 1,2-dimethoxyethane (1.5 ml) is treated with small amounts of NH2CH2CO2C2H5.HCl (156 mg). Triethylamine (0.16 ml) and 2,4-dichloro-6-(2,3-xylidino)-pyrimidine (300 mg) are added, and the mixture is refluxed for 18 hours. Triethylamine (0.16 ml) is added again, heating under reflux for 24 hours more. Finally, after cooling, the reaction mixture is diluted with water and extracted with methylene chloride. The organic phase is washed to neutrality and dried over Na2SO4. By evaporation of the solvent and crystallization from ethyl acetate 300 mg of ethyl ester of N-[4-chloro-6-(2,3xylidino)-2-pyrimidinyl]-aminoacetic acid (I, 2) are obtained.

reactant | sodium hydride | 27 mg | [H-].[Na+]
reactant | NH2CH2CO2C2H5.HCl | 156 mg | NCC(=O)OCC.Cl
reactant | Triethylamine | 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-6-(2,3-xylidino)-pyrimidine | 300 mg | ClC1=NC(=CC(=N1)Cl)NC1=C(C(=CC=C1)C)C | C12H11Cl2N3
reactant | Triethylamine | 0.16 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dimethoxyethane | 1.5 ml | COCCOC | C4H10O2
solvent | water | O | H2O
product | N-[4-chloro-6-(2,3-xylidino)-2-pyrimidinyl]-aminoacetic acid, ethyl ester | ClC1=NC(=NC(=C1)NC1=C(C(=CC=C1)C)C)NCC(=O)OCC | C16H19ClN4O2
